US08486980B2
[step 1] To methyl 2-aminobenzoate (1.5 g, 9.92 mmol) was added butyric anhydride (4.9 mL, 29.76 mmol), and the mixture was stirred at room temperature for 2 hr. Under ice-cooling, fuming nitric acid (1.6 mL) was added dropwise to the mixture, and the mixture was stirred at 0° C. for 20 min. The mixture was adjusted to pH 7 with water and 4 mol/L aqueous sodium hydroxide solution, and extracted with ethyl acetate (150 mL). The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=100/0 to 60/40) to give methyl 2-butyramido-3-nitrobenzoate (1.26 g, 48%). [step 2] Methyl 2-butyramido-3-nitrobenzoate (1.65 g, 6.2 mmol) obtained in step 1 was dissolved in methanol (34 mL), and the mixture was stirred in the presence of 10% palladium carbon (413 mg) under a hydrogen atmosphere at room temperature for 6 hr. The mixture was filtered, and the filtrate was concentrated under reduced pressure to give methyl 3-amino-2-butyramidobenzoate (1.46 g, 100%). [step 3] To methyl 3-amino-2-butyramidobenzoate (1.46 g, 6.2 mmol) obtained in step 2 was added acetic acid (9.0 mL), and the mixture was stirred at 80° C. for 1.5 hr. The mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate solution (300 mL) was added, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=80/20 to 50/50) to give the title compound (1.18 g, 87%).

reactant | methyl 2-aminobenzoate | 9.92 mmol, 1.5 g | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | butyric anhydride | 29.76 mmol, 4.9 mL | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | nitric acid | 1.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 4 mol/L | [OH-].[Na+]
solvent | water | O | H2O
product | methyl 2-butyramido-3-nitrobenzoate | 1.26 g, 48% | C(CCC)(=O)NC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C12H14N2O5
